US05889050
A suspension of 1 equiv. 3,3'-dithiobis(2-aminopropionic acid) dimethylester dihydrochloride in tetrahydrofuran (white slurry) was stirred and cooled to 0° C. To the reaction mixture was added 4 equiv. of N-ethyldiiso-propylamine and 2.2 equiv. of hexanoylchloride. The mixture was stirred for 4 hrs on an ice bath and the white precipitate of N-ethyldiisopropylammonium chloride was filtered off. The solvent was removed by evaporation under reduced pressure and the crude product was redissolved in dichlormethane. After washing with water, the organic phase was dried over sodium sulphate. Filtration and evaporation of the solvent gave crude (R,R)-N,N'-dihexanoyl-3,3'-dithiobis(2-aminopropionic acid) dimethylester, which was recrystallized from methanol/water and triturated with diethylether.

reactant | 3,3'-dithiobis(2-aminopropionic acid) dimethylester dihydrochloride | Cl.Cl.COC(C(CSSCC(C(=O)OC)N)N)=O
reactant | N-ethyldiiso-propylamine | 4 equiv. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | hexanoylchloride | 2.2 equiv. | C(CCCCC)(=O)Cl | C6H11ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (R,R)-N,N'-dihexanoyl-3,3'-dithiobis(2-aminopropionic acid) dimethylester | COC([C@H](CSSC[C@@H](C(=O)OC)NC(CCCCC)=O)NC(CCCCC)=O)=O | C20H36N2O6S2
